US08283310B2
To an iced slurry of cyclopropanesulfonamide (1.21 g, 9.99 mmol), Triethylamine (2.95 mL, 20.97 mmol), and 4-Dimethylaminopyridine (0.061 g, 0.499 mmol) in CH2Cl2 (50 mL) was added solution of Di-tert-butyl dicarbonate (2.423 mL, 10.99 mmol) in DCM (10 mL) dropwise. The formed solution was stirred at room temperature overnight, Removed the solvent in vacuo. The residual oil was taken up in EtOAc and washed with 1M HCl and brine. Dried over MgSO4, filtered, and concentrated. The residue was purified by Biotage column, eluted with gradient 5%˜50% acetone-hexane to yield the desired produce tert-butyl cyclopropylsulfonylcarbamate (2.17 g, 9.61 mmol, 96% yield) as a viscous oil, which solidified upon standing on bench. 1H NMR (400 MHz, CDCl3) ppm 1.11-1.13 (m, 2 H) 1.37-1.39 9m, 2 H) 1.53 (s, 9 H), 2.89-2.92 (m, 1 H) 7.00-7.05 (b, NH).

reactant | cyclopropanesulfonamide | 9.99 mmol, 1.21 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | Triethylamine | 20.97 mmol, 2.95 mL | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyl dicarbonate | 10.99 mmol, 2.423 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-Dimethylaminopyridine | 0.499 mmol, 0.061 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl cyclopropylsulfonylcarbamate | 9.61 mmol, 2.17 g, 96% yield | C1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C8H15NO4S
